US08012956B2
To a solution of cyclopropylbromide (1.24 g, 10.24 mmol) in THF (10 mL) was added dropwise a 2.5M solution of n-butyllithium in hexanes (4.0 mL, 10.00 mmol) at −78° C. and the reaction mixture was stirred for 1 h at this temperature. Then a solution of 6-chloro-N-methyl-N-(methyloxy)pyridine-3-carboxamide (1.00 g, 4.98 mmol) in THF (5 mL) was added quickly at −78° C., and the cooling bath was removed. Stirring was continued for 1 h, then the solution was poured into saturated ammonium chloride (100 mL), extracted with ethyl acetate (3×50 mL) and the organic layers were washed with brine (50 mL), dried over sodium sulfate then filtered and concentrated. Column chromatography on silica (hexanes:ethyl acetate 9:1 to 8:2) afforded (6-chloropyridin-3-yl)(cyclopropyl)-methanone (0.62 g, 68% yield). 1H NMR (400 MHz, CDCl3): 9.04 (d, 1H), 8.22 (dd, 1H), 7.46 (d, 1H), 2.61 (m, 1H), 1.32 (m, 2H), 1.15 (m, 2H).

reactant | cyclopropylbromide | 10.24 mmol, 1.24 g | C1(CC1)Br | C3H5Br
reactant | n-butyllithium | C(CCC)[Li]
reactant | 6-chloro-N-methyl-N-(methyloxy)pyridine-3-carboxamide | 4.98 mmol, 1.00 g | ClC1=CC=C(C=N1)C(=O)N(OC)C | C8H9ClN2O2
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | (6-chloropyridin-3-yl)(cyclopropyl)-methanone | 0.62 g, 68% yield | ClC1=CC=C(C=N1)C(=O)C1CC1 | C9H8ClNO
